US03953499
A mixture of 5 g. of 1-bromo-2-octyne, 7 g. of potassium cyanide and 35 ml. of dimethylsulfoxide is stirred and heated under nitrogen for about 2.5 hrs. at reflux temperature. The mixture is then poured into water and extracted with ether. The ether extract is washed with water, than with saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated under reduced pressure leaving a residue comprising 3-nonynenitrile. The thus obtained residue is mixed with 45 ml. of 25% hydrogen chloride in methanol containing 0.5 ml. of water while cooling in an ice bath. The ice is allowed to melt and the mixture is stirred for about 18 hrs., then is poured into water and extracted with ether. The ether extract is washed with water, aqueous sodium bicarbonate, and saturated aqueous sodium chloride, dried over sulfate, and evaporated under reduced pressure leaving a residue comprising methyl 3-nonynoate. A mixture of the thus obtained methyl 3-nonynoate, 500 mg. of 5% palladium-barium sulfate catalyst and 40 ml. of pyridine is shaken under hydrogen for about 2 hrs., until the uptake of hydrogen practically ceases. The mixture is then filtered, diluted with water, and extracted with ether. The ether extract is washed with water, dilute hydrochloric acid, and aqueous sodium bicarbonate, then is dried over sodium sulfate and evaporated to leave a residue comprising methyl 3-nonenoate.

reactant | 1-bromo-2-octyne | BrCC#CCCCCC | C8H13Br
reactant | potassium cyanide | [C-]#N.[K+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-nonynenitrile | C(CC#CCCCCC)#N | C9H13N
